US04980509
(1) 2-ethylthio naphthalene
To a solution, stirred under an inert atmosphere at ambient temperature, of 40 g of 2-mercapto naphthalene in 1 liter of anhydrous ethanol, there are slowly added 24.4 g of potash. The addition being completed, stirring is maintained for 2 hours, then there is slowly added a solution of 21 cm3 of bromomethane dissolved in 100 cm3 of anhydrous ethanol. After 3 hours of stirring, the reaction mixture is left overnight, then filtered and the filtrate is concentrated under a vacuum. The resulting crude product is stirred in 800 cm3 of water, then extracted 4 times with 150 cm3 of dichloromethane. The dichloromethane phases are combined, washed with a saturated solution of ammonium chloride, then dried on magnesium sulfate. The solvent is rectified under vacuum and 38 g of 2-ethylthio naphthalene are obtained and used as such for the following reactions.

reactant | 2-mercapto naphthalene | 40 g | SC1=CC2=CC=CC=C2C=C1 | C10H8S
reactant | potash | 24.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromomethane | 21 cm3 | BrC | CH3Br
reactant | ethanol | 1 liter | C(C)O | C2H6O
reactant | ethanol | 100 cm3 | C(C)O | C2H6O
product | 2-ethylthio naphthalene | C(C)SC1=CC2=CC=CC=C2C=C1 | C12H12S
